US09108921B2
Step C: 4-(2-amino-6-chloroquinoline-8-sulfonamido)benzoic acid (42D)
A mixture of 2-amino-6-chloroquinoline-8-sulfonyl chloride (500 mg, 1.8 mmol), 4-aminobenzoic acid (300 mg, 2.2 mmol) and pyridine (1 mL) in 10 mL of THF was stirred at 30° C. overnight, when LCMS indicated that the reaction was complete. The resulting mixture was concentrated, and the residue was purified by a standard method to yield the title compound. LCMS (m/z): 378.8 (M+1)+

reactant | 2-amino-6-chloroquinoline-8-sulfonyl chloride | 1.8 mmol, 500 mg | NC1=NC2=C(C=C(C=C2C=C1)Cl)S(=O)(=O)Cl | C9H6Cl2N2O2S
reactant | 4-aminobenzoic acid | 2.2 mmol, 300 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(2-amino-6-chloroquinoline-8-sulfonamido)benzoic acid | NC1=NC2=C(C=C(C=C2C=C1)Cl)S(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C16H12ClN3O4S
